US04069257
30 g (1 mol) of paraformaldehyde were added to a mixture of 490 g (5 mols) of mesityl oxide and 15.2 g (0.1 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene over the course of 2 - 3 hours at 30° C. After completion of the addition of formaldehyde, the reaction mixture was stirred for about a further hour, then cooled to 0° C and neutralised with dilute hydrochloric acid. The organic phase was separated off and the aqueous phase was repeatedly extracted with methylene chloride. The combined organic phases were dried with zeolite, filtered off and then freed from methylene chloride. The residue (506 g) was fractionally distilled in a high vacuum at about 0.1 - 1 mm Hg. Thereby, 431 g of mesityl oxide were recovered. As a further fraction, 47 g of crude product of boiling point 45° - 85° C/l mm Hg were obtained. A further fractional distillation of this crude product gave 35.5 g of 2-methyl-3-hydroxymethyl-pent-1-en-4-one of boiling point 50° - 52° C/0.2 mm Hg (yield: 78%, relative to mesityl oxide converted), in the form of a colourless liquid.

reactant | paraformaldehyde | 1 mol, 30 g | C=O | CH2O
reactant | mesityl oxide | 5 mols, 490 g | O=C(C)C=C(C)C | C6H10O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.1 mol, 15.2 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
product | 2-methyl-3-hydroxymethyl-pent-1-en-4-one | 35.5 g, yield: 78% | CC(=C)C(C(C)=O)CO | C7H12O2
